US08217177B2
6-(difluoro(6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
A mixture of methyl 2,2-difluoro-2-(quinolin-6-yl)acetate (0.50 g, 2.1 mmol), 1-(6-(3-methylisothiazol-5-yl)pyridazin-3-yl)hydrazine (0.25 g, 1.2 mmol) and p-toluenesulfonic acid monohydrate (0.40 g, 2.1 mmol) in 5 mL of dioxane was heated at 150° C. for 1 hour in a microwave. The mixture was then diluted with 70 mL of EtOAc and 40 mL of satd. NaHCO3 solution. The organic phase was separated and washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc to 10% MeOH/EtOAc) to give yellow glass. The product was further purified by a prep-HPLC to give yellow glass. MS (ESI pos. ion) m/z: 395 (MH+). Calc'd exact mass for C19H12F2N6S: 394.

reactant | methyl 2,2-difluoro-2-(quinolin-6-yl)acetate | 2.1 mmol, 0.50 g | FC(C(=O)OC)(C=1C=C2C=CC=NC2=CC1)F | C12H9F2NO2
reactant | 1-(6-(3-methylisothiazol-5-yl)pyridazin-3-yl)hydrazine | 1.2 mmol, 0.25 g | CC1=NSC(=C1)C1=CC=C(N=N1)NN | C8H9N5S
reactant | p-toluenesulfonic acid monohydrate | 2.1 mmol, 0.40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6-(difluoro(6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | FC(C=1C=C2C=CC=NC2=CC1)(C1=NN=C2N1N=C(C=C2)C2=CC(=NS2)C)F | C19H12F2N6S
